US06967254B2
Step C: 4-(3,4-Dichloro-phenyl)-5-pyridin-4-yl-pyrazolidin-3-one
To a solution of 3-(3,4-Dichloro-phenyl)-2-oxo-4-pyridin-4-yl-but-3-enoic acid ethyl ester 11.4 g in ethyl alcohol 50 mL was added hydrazine 1.68 mL. The reaction was heated to 50° C. for 15 hours. All solvent was removed after under reduced pressure to afford the title compound 10.8 g as light yellow solid. MS (ES+): 308 (M+H)+.

reactant | 3-(3,4-Dichloro-phenyl)-2-oxo-4-pyridin-4-yl-but-3-enoic acid ethyl ester | 11.4 g | C(C)OC(C(C(=CC1=CC=NC=C1)C1=CC(=C(C=C1)Cl)Cl)=O)=O | C17H13Cl2NO3
reactant | hydrazine | 1.68 mL | NN | H4N2
solvent | ethyl alcohol | 50 mL | C(C)O | C2H6O
product | 4-(3,4-Dichloro-phenyl)-5-pyridin-4-yl-pyrazolidin-3-one | 10.8 g | ClC=1C=C(C=CC1Cl)C1C(NNC1C1=CC=NC=C1)=O | C14H11Cl2N3O
